US06228859B1
1-(3-Benzyloxy-4-methoxy-benzyl)-2-thiourea (72.58 g, 240 mmole) was added to a solution of 97% t-BuOK (30.54 g, 264 mmole) in isopropanol (300 ml), the mixture heated under reflux until dissolution was complete, then ethyl cyanoacetate (26.1 .ml, 245 mmole) was added. After 5 hours at reflux, the mixture was cooled slightly, another batch of t-BuOK (2.78 g, 24 mmole) and ethyl cyanoacetate (5.12 ml, 48 mmole) was added, and the mixture heated under reflux for a further 15 hours. The reaction mixture was cooled to room temperature, poured onto water (1.21) and neutralized with cooling to pH 8 with 5M HCl (43 ml). After 1 hour stirring the solid was collected at 10° C. and washed first with water (180 ml), then saturated sodium bicarbonate solution (60 ml), isopropanol (60 ml) and finally cold water (500 ml). The crude material was suspended in 0.5M NaOH (1.4 l) and isopropanol (350 ml). The insoluble part was filtered off and washed with 0.1M NaOH and water to give recovered thiourea (10.45 g, 14.4%). The filtrate was neutralized to pH 8 with 2M phosphoric acid (175 ml ), crystallized over night, the solid collected and washed with the above three component liqours and water to give the crude thiouracil (73.33 g). This product was suspended in hot acetone (600 ml), concentrated to 500 ml and collected at 0-5° C. to give 6-amino-1-(3-benzyloxy-4-methoxy-benzyl)-2-thiouracil (65.73 g, 74.1%), mp 239-240° C.

reactant | 1-(3-Benzyloxy-4-methoxy-benzyl)-2-thiourea | 240 mmole, 72.58 g | C(C1=CC=CC=C1)OC=1C=C(CNC(=S)N)C=CC1OC | C16H18N2O2S
reactant | t-BuOK | 264 mmole, 30.54 g | CC(C)(C)[O-].[K+]
reactant | ethyl cyanoacetate | 245 mmole | C(#N)CC(=O)OCC | C5H7NO2
reactant | t-BuOK | 24 mmole, 2.78 g | CC(C)(C)[O-].[K+]
reactant | ethyl cyanoacetate | 48 mmole, 5.12 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | HCl | 5M, 43 ml | Cl | ClH
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | acetone | 600 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-amino-1-(3-benzyloxy-4-methoxy-benzyl)-2-thiouracil | 65.73 g, 74.1% | NC1=CC(NC(N1CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=S)=O | C19H19N3O3S
